US04369178
Benzyl t-butyloxycarbonyl-L-valyl-D-isoglutaminate (7.5 g, 17.2 mmol) was catalytically hydrogenated in methanol (150 ml) using palladium black as a catalyst at room temperature for 6 hours. The catalyst was filtered and the solvent was evaporated. Petroleum ether was added to the residue. After trituration, the resulting powder was filtered. Reprecipitation from ethyl acetate/petroleum ether gave t-butyloxycarbonyl-L-valyl-D-isoglutamine (6.0 g). m.p. 89°-90° C. (dec.). [α]D23 +9.46° (C 0.5, DMF). Rf2 =0.32.

reactant | Benzyl t-butyloxycarbonyl-L-valyl-D-isoglutaminate | 17.2 mmol, 7.5 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](CCC(=O)OCC1=CC=CC=C1)C(N)=O | C22H33N3O6
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium black | [Pd] | Pd
product | t-butyloxycarbonyl-L-valyl-D-isoglutamine | 6.0 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](CCC(=O)O)C(N)=O | C15H27N3O6
